* C:\Users\alber\Downloads\Wearable-EEG-Sensor\LTSpice Stuff\Draft1.asc
XU1 NC_01 N002 0 N003 N004 0 NC_02 N001 LTC1044
C1 N004 0 0.0000001
C2 N002 N003 0.00001
V2 N001 0 PULSE(3.25 3.35 0 1u 1u 0 1u)
.tran 0 0.001 0 0.00001
.include INA818.LIB
.lib LTC1044.sub
.backanno
.end
